US08008505B2
4.4 [2-(4-Chloro-phenyl)-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester
2,3-Dichloro-5,6-dicyanobenzoquinone (136 mg, 600 μmol) was added to a solution of [2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester (60 mg, 150 μmol in dioxane (3.3 ml) under an argon atmosphere. The reaction mixture was heated under reflux conditions for 4 d. The solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, iPrOAc/heptane) to give the title compound (11 mg, 28 μmol; 19%) as colorless solid. MS: m/e=397.0 [M+H+].

reactant | 2,3-Dichloro-5,6-dicyanobenzoquinone | 600 μmol, 136 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | [2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester | C(C)OC(C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C23H29ClN2O2
solvent | dioxane | 3.3 ml | O1CCOCC1 | C4H8O2
product | [2-(4-Chloro-phenyl)-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester | 28 μmol, 11 mg, 19% | C(C)OC(C(C1CCCCC1)C=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)Cl)=O | C23H25ClN2O2
